US04845201
1.14 mmole of anthracene is reacted with 4.57 m atoms of cerium as powder in 7.5 ml of DME in the conditions of example 9 with application of ultrasound, thus producing anthracenecerium. After action of a methanol excess and the usual treatment, 9,10-dihydroanthracene was isolated with a yield of 59%.

reactant | anthracene | 1.14 mmole | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | cerium | [Ce] | Ce
reactant | methanol | CO | CH4O
solvent | DME | 7.5 ml | COCCOC | C4H10O2
product | 9,10-dihydroanthracene | yield of 59% | C1=CC=CC=2CC3=CC=CC=C3CC12 | C14H12
